2127-05-15 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got valium and ativan for ? withdrawl
   Afrin has been effective for recurrent bleeding
   BP difficult to control with hydralazine, labetalol
   Exposure incident
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2127-5-14**] 10:10 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2127-5-14**] 10:05 PM
   Metoprolol - [**2127-5-15**] 02:10 AM
   Labetalol - [**2127-5-15**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-15**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 96 (86 - 118) bpm
   BP: 161/89(102) {126/72(90) - 192/136(140)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,405 mL
                                                                     64 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                    305 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                    590 mL
                                                                    200 mL
   Urine:
                                                                    590 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    815 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   349 K/uL
   12.5 g/dL
   104 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   15 mg/dL
   103 mEq/L
   137 mEq/L
   37.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2127-5-14**]  02:55 AM
                             [**2127-5-14**]  11:03 AM
                             [**2127-5-14**]  03:53 PM
                             [**2127-5-14**]  08:49 PM
                             [**2127-5-15**]  03:44 AM
   WBC
   9.1
   11.2
   Hct
   40.6
   38.1
   39.8
   39.1
   37.5
   Plt
   365
   349
   Cr
   0.8
   0.7
   Glucose
   125
   104
   Other labs: PT / PTT / INR:14.0/23.0/1.2, ALT / AST:22/22, Alk Phos / T
   Bili:79/0.7, Differential-Neuts:82.1 %, Lymph:10.9 %, Mono:6.4 %,
   Eos:0.3 %, Albumin:3.9 g/dL, LDH:171 IU/L, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   64 yo M with h/o DVT on warfarin(INR 1.5), HTN, alcohol abuse, medical
   non-compliance admitted with severe epistaxis requiring balloon packing
   in ED admitted to ICU for airway monitoring.
   #. Epistaxis - H/o of epistaxis in past on coumadin, though INR only
   1.5 on admission. No recent trauma, foreign body, or other precipitant.
   Question if uncontrolled hypertension, ETOH use, or intranasal
   malignancy is cause. Hemostasis acheived with intranasal balloon. HCT
   stable.
   - ENT to evaluate in am
   - continue pressure dressing with balloon
   - continue cefazolin 1gm Q8H
   - trend HCt Q6H and coags
   - control BP, goal SBP<150
   - hold on further anticoagulation for now
   .
   #. HTN, uncontrolled - On no home regimen. [**Month (only) 51**] be contributing factor
   to epistaxis.
   - start po lisinopril 5mg and up titrate as tolerated
   - give po hydralazine prn for SBP>180
   .
   #. H/o DVT - Last documented in [**11-6**] with plan for warfarin therapy.
   Patient is non-compliant with INR checks.
   - resume anticoagulation with lovenox to warfarin bridge once epistaxis
   resolved
   .
   #. H/o EOTH Abuse - monitor closely for signs of withdrawal. Few exam
   findings raising question of chronic liver disease.
   - CIWA scale with prn valium
   - check LFTs, recommend outpt f/u
   .
   #. FEN - NPO pending ENT eval in am
   .
   #. Access - PIV x2
   .
   #. PPx -
   -DVT ppx with pneumoboots
   -Bowel regimen colace/senna prn
   -Pain management with morphine IV prn
   .
   #. Code - full code
   .
   #. Dispo - Pending above hemodynamic stability, ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-5-14**] 02:24 AM
   20 Gauge - [**2127-5-15**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-05-15 12:16:00 Physician Attending Progress Note
Chief Complaint: Epistaxis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Valium/Ativan for withdrawl given
   -Afrin used for recurrent bleeding
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2127-5-14**] 10:10 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2127-5-14**] 10:05 PM
   Metoprolol - [**2127-5-15**] 02:10 AM
   Labetalol - [**2127-5-15**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Epistaxis
   Flowsheet Data as of  [**2127-5-15**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.3
   HR: 113 (90 - 118) bpm
   BP: 164/91(108) {142/83(97) - 192/136(140)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,405 mL
                                                                    220 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    305 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                    590 mL
                                                                    500 mL
   Urine:
                                                                    590 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    815 mL
                                                                   -280 mL
   Respiratory support
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   349 K/uL
   104 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   15 mg/dL
   103 mEq/L
   137 mEq/L
   37.5 %
   11.2 K/uL
        [image002.jpg]
                             [**2127-5-14**]  02:55 AM
                             [**2127-5-14**]  11:03 AM
                             [**2127-5-14**]  03:53 PM
                             [**2127-5-14**]  08:49 PM
                             [**2127-5-15**]  03:44 AM
   WBC
   9.1
   11.2
   Hct
   40.6
   38.1
   39.8
   39.1
   37.5
   Plt
   365
   349
   Cr
   0.8
   0.7
   Glucose
   125
   104
   Other labs: PT / PTT / INR:14.0/23.0/1.2, ALT / AST:22/22, Alk Phos / T
   Bili:79/0.7, Differential-Neuts:82.1 %, Lymph:10.9 %, Mono:6.4 %,
   Eos:0.3 %, Albumin:3.9 g/dL, LDH:171 IU/L, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   64 yo male with h/o EtOH abuse and now with admission with epistaxis
   and significant bleeding continuing.  There has been some improvment
   with Afrin locally but no durable response seen and recurrent bleeding
   seen.
   1)
 EPISTAXIS (NOSEBLEED)-
   -ENT providing guidance and management with packing.
   -Has coags and PLT wnl this am
   -Will continue packing and consider IR intervention for worsening
   bleeding
   -Continue Cefazolib
   2)EtOH Abuse
   -Continue CIWA
   -Thiamin/Folate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-5-14**] 02:24 AM
   20 Gauge - [**2127-5-15**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2127-05-16 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Nose bleed
   24 Hour Events:
   ENT repacked nose and said that if he bleeds again he needs IR
   embolization.
   Given valium and labetalol for HTN/tachycardia as Hct remained stable.
   BP/HR decreased.
   Having bursts of SVT overnight.
   Got Valium twice but no true signs of alcohol withdrawal (did have some
   HTN and tachycardia but does have HTN at baseline)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2127-5-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-16**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 93 (87 - 113) bpm
   BP: 126/77(89) {103/52(67) - 169/106(121)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,428 mL
                                                                    745 mL
   PO:
                                                                    350 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,078 mL
                                                                    695 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    425 mL
   Urine:
                                                                  1,750 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    678 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Gen: A/O, conversant
   HEENT: Packing in L nostril, no blood noted from nares
   Heart: rrr, No MRG
   Lungs: CTAB
   Abd: Soft, NT, obese, BS+
   Ext: trace edema
   Labs / Radiology
   341 K/uL
   12.0 g/dL
   121 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   9 mg/dL
   104 mEq/L
   137 mEq/L
   36.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2127-5-14**]  02:55 AM
                             [**2127-5-14**]  11:03 AM
                             [**2127-5-14**]  03:53 PM
                             [**2127-5-14**]  08:49 PM
                             [**2127-5-15**]  03:44 AM
                             [**2127-5-15**]  11:00 PM
                             [**2127-5-16**]  04:43 AM
   WBC
   9.1
   11.2
   10.9
   Hct
   40.6
   38.1
   39.8
   39.1
   37.5
   36.2
   36.1
   Plt
   365
   349
   341
   Cr
   0.8
   0.7
   0.6
   Glucose
   125
   104
   121
   Other labs: PT / PTT / INR:13.6/24.3/1.2, ALT / AST:22/22, Alk Phos / T
   Bili:79/0.7, Differential-Neuts:82.1 %, Lymph:10.9 %, Mono:6.4 %,
   Eos:0.3 %, Albumin:3.9 g/dL, LDH:171 IU/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   64 yo M with h/o DVT on warfarin(INR 1.5 ) poorly controlled HTN p/w
   epistaxis
   #. Epistaxis HCt has remained stable, slowly trending downward,
   bleeding appears to have stopped. Per ENT next step will be to embolize
   via neuro IR.
   - appreciate ENT recommendations, if pt bleeds significantly again will
   need to embolize by IR
   - continue pressure dressing with balloon
   - continue cefazolin 1gm Q8H while packing in place
   -can use afrin generously to right nostril if bleeds
 would discuss
   with ENT if plan to use after [**2127-5-16**] given risk for later rebound
   - trend HCt Q12H
   - hold on further anticoagulation, no plan to restart anticoagulatio
   after discharge
   .
   # Supraventricular tachycardia: unable to capture on EKG given pt has
   short bursts into the 150s.  Pt asymptomatic during these episodes.
   Unlikely related to EtoH withdrawal as pt does not show other signs of
   withdrawal.
   -monitor on telemetry
   .
   #. HTN, uncontrolled, unlikely to represent etoh withdrawl as is
   longstanding.  Had some hypotension this AM after receiving 2 BP meds
   -d/c hydralazine
   -BP control with lisinopril and labetolol
   .
   #. H/o DVT - Last documented in [**11-6**] with plan for warfarin therapy.
   Patient is non-compliant with INR checks.
   - no plan to resume anticoagulation after d/c, pt
s nose bleed was in
   setting of sub therapeutic INR
   .
   #. H/o EOTH Abuse
 tachycardia earlier in hospitalization had not
   responded to valium and not agitated so doubt that this represents
   withdrawl.
   - CIWA scale with prn valium
   - check LFTs, recommend outpt f/u
   .
   #. FEN
   -advance diet today as has not bled significantly for 24 hrs
   .
   #. Access - PIV x2
   .
   #. PPx -
   -DVT ppx with pneumoboots
   -Bowel regimen colace/senna prn
   -Pain management with morphine IV prn
   .
   #. Code - full code
   .
   #. Dispo - Pending above hemodynamic stability, ICU for now
   ICU Care
   Nutrition: advanced diet to full liquids this AM given no bleed in 24
   hrs
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-5-14**] 02:24 AM
   20 Gauge - [**2127-5-15**] 05:00 AM
   Prophylaxis:
   DVT: pneumoboots for prophylaxis
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to medicine floor